US05814378
In a flask whose content had been replaced with Ar, 66.0 g of 2-(perfluorobutyl)ethanol and 180 ml of methylene chloride were placed. To this solution, 88.3 g of trifluoromethanesulfonic anhydride and then 31.7 g of triethylamine were added dropwise at 5° C. or less. The reaction solution was allowed to warm up to room temperature, and was stirred overnight. Thereafter, the reaction solution was washed with 75 ml of water, 75 ml of 3% dilute sulfuric acid, and 75 ml of water in this order, and the solvent was distilled away. The residue was distilled under a reduced pressure to give 88.3 g of 2-(perfluorobutyl)ethyl trifluoromethane sulfonate (Y: 92%). The purity of the compound thus obtained was 94% by GC, and its b.p. was 88° C. to 90° C./28 mmHg.

reactant | 2-(perfluorobutyl)ethanol | 66.0 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(CCO)F | C6H5F9O
reactant | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
reactant | trifluoromethanesulfonic anhydride | 88.3 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | triethylamine | 31.7 g | C(C)N(CC)CC | C6H15N
product | 2-(perfluorobutyl)ethyl trifluoromethane sulfonate | 88.3 g, 92% | FC(S(=O)(=O)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F | C7H4F12O3S
